US04565817
25.2 g. of 2-(theophyllin-7-yl)-acetamidoxime, 200 cm3 toluene and 6.8 g. of sodium ethylate and 37.4 g. of γ-diethylamino-butyric acid ethyl ester are reacted according to Example 4a and thus 38 g. (77% yield) of 7-[{5-(3-diethylamino-propan-1-yl)-1,2,4-oxadiazol-3-yl}-methyl]-theophylline maleinate are obtained. Melting point: 119°-121° C.

reactant | 2-(theophyllin-7-yl)-acetamidoxime | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(N)=NO | C9H12N6O3
reactant | sodium ethylate | CC[O-].[Na+]
reactant | γ-diethylamino-butyric acid ethyl ester | C(C)OC(CCCN(CC)CC)=O | C10H21NO2
solvent | toluene | 200 cm3 | C1(=CC=CC=C1)C | C7H8
product | 7-[{5-(3-diethylamino-propan-1-yl)-1,2,4-oxadiazol-3-yl}-methyl]-theophylline maleinate | 77% yield | C(\C=C/C(=O)O)(=O)O.C(C)N(CCCC1=NC(=NO1)CN1C=NC=2N(C(N(C)C(C12)=O)=O)C)CC | InChI=1S/C17H25N7O3.C4H4O4/c1-5-23(6-2)9-7-8-13-19-12(20-27-13)10-24-11-18-15-14(24)16(25)22(4)17(26)21(15)3;5-3(6)1-2-4(7)8/h11H,5-10H2,1-4H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
